US05091384
Preparation of 6,8-difluoro-7-[3,7-diazabicyclo[3.3.0]oct-1(5)-en-3-yl]-1-(2-fluoroethyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
1-(2-Fluoroethyl)-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (0.29 g), 3,7-diazabicyclo [3.3.0]oct-1(5)-ene dihydrobromide (0.33 g) and 1,8-diazabicyclo [5.4.0]undec-7-ene (DBU, 0.46 g) were dissolved in acetonitrile (15 ml) and refluxed for 3 hours. The reaction mixture was kept at room temperature overnight and the precipitate was collected by filtration, washed with acetonitrile and methanol to give the title compound (0.29 g, yield 76%).

reactant | 1-(2-Fluoroethyl)-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.29 g | FCCN1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C12H7F4NO3
reactant | 3,7-diazabicyclo [3.3.0]oct-1(5)-ene dihydrobromide | 0.33 g | Br.Br.C1=2CNCC2CNC1
reactant | 1,8-diazabicyclo [5.4.0]undec-7-ene | 0.46 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 6,8-difluoro-7-[3,7-diazabicyclo[3.3.0]oct-1(5)-en-3-yl]-1-(2-fluoroethyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.29 g, yield 76% | FC=1C=C2C(C(=CN(C2=C(C1N1CC=2CNCC2C1)F)CCF)C(=O)O)=O | C18H16F3N3O3
